US04460580
A solution of 7.2 g of 4-benzyloxy-α-[N-[2-(3-carbamoyl-4-hydroxy-phenoxy)-ethyl]-aminomethyl]-benzyl alcohol in 200 ml of methanol is hydrogenated analogously to Example 7 in the presence of palladium-on-charcoal catalyst (5%). Evaporation of the filtered solution yields crude α-[N-[2-(3-carbamoyl-4-hydroxy-phenoxy)-ethyl]aminomethyl]-4-hydroxybenzyl alcohol, which after recrystallisation from methanol/isopropanol melts at 194°-196°.

reactant | 4-benzyloxy-α-[N-[2-(3-carbamoyl-4-hydroxy-phenoxy)-ethyl]-aminomethyl]-benzyl alcohol | 7.2 g | C(C1=CC=CC=C1)OC1=CC=C(C(CNCCOC2=CC(=C(C=C2)O)C(N)=O)O)C=C1 | C24H26N2O5
solvent | methanol | 200 ml | CO | CH4O
catalyst | palladium-on-charcoal | [Pd] | Pd
product | α-[N-[2-(3-carbamoyl-4-hydroxy-phenoxy)-ethyl]aminomethyl]-4-hydroxybenzyl alcohol | C(N)(=O)C=1C=C(OCCNCC(C2=CC=C(C=C2)O)O)C=CC1O | C17H20N2O5
